US07531545B2
To a stirred solution of cyclohexylamine (2.4 mL, 26.8 mmole) in methanol (30 mL) was added 1H-imidazole-2-carboxaldehyde (2.00 g, 26.8 mmole). After stirring at room temperature for one hour, the solution was cooled to 0° C. Sodium borohydride (1.57 g, 41.5 mmol) was then added slowly into the reaction mixture and the reaction mixture was stirred at 0° C. for one hour. Aqueous hydrochloric acid (1 N, 30 mL) was then added. The reaction mixture washed with diethyl ether twice, and then basified by addition of solid sodium carbonate. The aqueous phase was extracted with ethyl acetate twice. The combined ethyl acetate extracts were washed with saturated sodium bicarbonate solution twice and saturated aqueous sodium chloride solution once, and then dried over magnesium sulfate. The solvent was removed to yield cyclohexyl-(1H-imidazol-2-ylmethyl)-amine as a colorless oil.

reactant | cyclohexylamine | 26.8 mmole, 2.4 mL | C1(CCCCC1)N | C6H13N
reactant | 1H-imidazole-2-carboxaldehyde | 26.8 mmole, 2.00 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | Sodium borohydride | 41.5 mmol, 1.57 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N, 30 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | cyclohexyl-(1H-imidazol-2-ylmethyl)-amine | C1(CCCCC1)NCC=1NC=CN1 | C10H17N3
